.include "Gates_List.cir"

.subckt Propagate_Generate A B G_not P_not Inter_Sum high low

    XNAND A B G_not high low Bigger_NAND_Gate
    XNOR A B P_not high low Bigger_NOR_Gate

    XInv A A_not high low Inverter
    XXOR A A_not B Inter_Sum high low XOR_Gate

.ends Propagate_Generate

.subckt PG_Ckt A3 A2 A1 A0 B3 B2 B1 B0 G3_not G2_not G1_not G0_not P3_not P2_not P1_not P0_not Inter_S0 Inter_S1 Inter_S2 Inter_S3 high low

    XPG0 A0 B0 G0_not P0_not Inter_S0 high low Propagate_Generate
    XPG1 A1 B1 G1_not P1_not Inter_S1 high low Propagate_Generate
    XPG2 A2 B2 G2_not P2_not Inter_S2 high low Propagate_Generate
    XPG3 A3 B3 G3_not P3_not Inter_S3 high low Propagate_Generate

.ends PG_Ckt

.subckt Helper Gi_not Pi_not Gi_1_not Pi_1_not inter_nand inter_nor high low 

    XOR Pi_not Gi_1_not temp high low OR_Gate
    XNAND Gi_not temp inter_nand high low NAND_Gate
    XNOR Pi_not Pi_1_not inter_nor high low Inter_NOR_Gate

.ends Helper

.subckt Carry_Sum_Logic A3 A2 A1 A0 B3 B2 B1 B0 Cin C3 S3 S2 S1 S0 high low

    XPG_Block A3 A2 A1 A0 B3 B2 B1 B0 G3_not G2_not G1_not G0_not P3_not P2_not P1_not P0_not Inter_S0 Inter_S1 Inter_S2 Inter_S3 high low PG_Ckt

    XInv100 Cin Cin_not vdd gnd Inverter
    XInv101 C0 C0_not vdd gnd Inverter
    XInv102 C1 C1_not vdd gnd Inverter
    XInv103 C2 C2_not vdd gnd Inverter
    XInv104 C3 C3_not vdd gnd Inverter

    XOR01 P0_not Cin_not C0_inter_01 high low OR_Gate
    XNAND02 G0_not C0_inter_01 C0 high low NAND_Gate
    XXOR03 Cin Cin_not Inter_S0 S0 high low XOR_Gate

    XHelper10 G1_not P1_not G0_not P0_not C1_inter_nand C1_inter_nor high low Helper
    XAND11 Cin C1_inter_nor C1_inter_01 high low AND_Gate
    XOR12 C1_inter_nand C1_inter_01 C1 high low OR_Gate
    XXOR13 C0 C0_not Inter_S1 S1 high low XOR_Gate

    XHelper20 G2_not P2_not G1_not P1_not C2_inter_nand C2_inter_nor high low Helper
    XAND21 C0 C2_inter_nor C2_inter_01 high low AND_Gate
    XOR22 C2_inter_nand C2_inter_01 C2 high low OR_Gate
    XXOR23 C1 C1_not Inter_S2 S2 high low XOR_Gate

    XHelper30 G3_not P3_not G2_not P2_not C3_inter_nand C3_inter_nor high low Helper
    XAND31 C1_inter_nand C3_inter_nor C3_inter_01 high low AND_Gate
    XNOR32 C3_inter_nand C3_inter_01 C3_inter_02 high low NOR_Gate
    XNAND33 C3_inter_nor C1_inter_nor C3_inter_03 high low NAND_Gate
    XOR34 C3_inter_03 Cin_not C3_inter_04 high low OR_Gate
    XNAND35 C3_inter_02 C3_inter_04 C3 high low NAND_Gate
    XXOR36 C2 C2_not Inter_S3 S3 high low XOR_Gate

.ends Carry_Sum_Logic